US07226926B2
A solution of 3,5-dibromopyridine (1.0 g, 4.2 mmol) and 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (0.95 g, 3.8 mmol) in 1,2-dimethoxyethane (20 ml) and 2N sodium carbonate solution (10 ml) was degassed with nitrogen for 30 min. Tetrakis-(triphenylphosphine)palladium(0) (89 mg, 0.08 mmol) was added and the mixture heated under reflux for 18 h. The mixture was allowed to cool to ambient temperature, diluted with water (10 ml) then extracted with ethyl acetate (2×100 ml). The organics were combined, dissolved in phophorus oxychloride (50 ml) and heated at 100° C. for 2 h. The reaction mixture was allowed to cool to ambient temperature and concentrated. The residue was treated with ice, and the resulting solution was layered with ethyl acetate (30 ml) and made basic by the addition of solid sodium hydrogencarbonate. The layers were separated, and the aqueous extracted further with ethyl acetate (75 ml). The organics were combined, washed with brine (20 ml), dried over anhydrous magnesium sulfate, filtered and evaporated to give a colourless oil. The oil was purified by flash column chromatography on silica, eluting with isohexane on a gradient of ethyl acetate (20-50%), to give 2-(5-bromopyridin-3-yl)-5-fluorobenzonitrile (0.95 g, 81%) as a white solid: δH (360 MHz, CDCl3) 7.44-7.46 (1H, m), 7.49-7.54 (2H, m), 8.02 (1H, s), 8.67 (1H, d, J 1.8), 8.78 (1H, d, J 1.8).

reactant | 3,5-dibromopyridine | 4.2 mmol, 1.0 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 5-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 3.8 mmol, 0.95 g | FC=1C=CC(=C(C#N)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | sodium carbonate | 2N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-(5-bromopyridin-3-yl)-5-fluorobenzonitrile | 0.95 g, 81% | BrC=1C=C(C=NC1)C1=C(C#N)C=C(C=C1)F | C12H6BrFN2
